US04289697
6,7,8,9-Tetrahydro-3-hydroxy-2-phenyl-5H-thiazolo[3,2-a]azepinium bromide
An acetic acid (50 ml.) solution of ω-thiocaprolactam (6.5 g., 0.05 mole) and α-bromophenylacetic acid (10.8 g., 0.05 mole) was heated on a steam bath for 1/2 hour. The solution was first cooled and diluted with ether. Upon scratching solid which precipitated was collected. The crude material was recrystallized from acetonitrile. The purified material weighed 14 g. (86% yield) and melted at 172°-175° C.

reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
reactant | ω-thiocaprolactam | 0.05 mole, 6.5 g | C1CCC(=S)NCC1 | C6H11NS
reactant | α-bromophenylacetic acid | 0.05 mole, 10.8 g | BrC(C(=O)O)C1=CC=CC=C1 | C8H7BrO2
solvent | ether | CCOCC | C4H10O
product | 6,7,8,9-Tetrahydro-3-hydroxy-2-phenyl-5H-thiazolo[3,2-a]azepinium bromide | 86% yield | [Br-].OC1=C(SC2=[N+]1CCCCC2)C2=CC=CC=C2 | InChI=1S/C14H15NOS.BrH/c16-14-13(11-7-3-1-4-8-11)17-12-9-5-2-6-10-15(12)14;/h1,3-4,7-8H,2,5-6,9-10H2;1H
